US06831074B2
5-Acetyl-2-ethoxynicotinic Acid
Triethylamine (354 ml, 2.54 mol), was added to a slurry of 5-bromo-2-ethoxynicotinic acid (250 g, 1.02 mol) in acetonitrile (1 L). To this reaction mixture was added palladium (II) acetate (4.56 g, 20.3 mmol), butyl vinyl ether (305 g, 3.05 mol) and tri-o-tolyl phosphine (12.4 g, 40.6 mmol), each addition being washed in with acetonitrile. Further acetonitrile (1 L) was then added and the reaction mixture heated to reflux under nitrogen for 22 hours. The reaction mixture was left at room temperature for 16 hours, and then the precipitate removed by filtration. The filtrate was concentrated in vacuo to give a brown gum, which was then stirred for 1 hour in water (1 L) and concentrated HCl (1 L). The reaction mixture was diluted with water (6.25 L), and extracted with dichloromethane (6×500 mL). The combined organic layers were extracted with 5% sodium bicarbonate solution (1.2 L, 2×400 ml). The basic aqueous extracts were washed with dichloromethane (250 ml), and then acidified to pH 3. After stirring for 30 minutes the precipitated product was removed by filtration, washed with water (250 ml) and dried at 50° C. in vacuo to yield the target compound as a white solid (134 g, 64.1 mmol, 63%).

reactant | Triethylamine | 2.54 mol, 354 ml | C(C)N(CC)CC | C6H15N
reactant | 5-bromo-2-ethoxynicotinic acid | 1.02 mol, 250 g | BrC=1C=NC(=C(C(=O)O)C1)OCC | C8H8BrNO3
reactant | butyl vinyl ether | 3.05 mol, 305 g | C(=C)OCCCC | C6H12O
reactant | tri-o-tolyl phosphine | 40.6 mmol, 12.4 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | HCl | 1 L | Cl | ClH
solvent | acetonitrile | 1 L | C(C)#N | C2H3N
solvent | water | 1 L | O | H2O
solvent | water | 6.25 L | O | H2O
catalyst | palladium (II) acetate | 20.3 mmol, 4.56 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-Acetyl-2-ethoxynicotinic Acid | 64.1 mmol, 134 g, 63% | C(C)(=O)C=1C=NC(=C(C(=O)O)C1)OCC | C10H11NO4
